US07199147B2
Trifluoroacetic anhydride (13.3 ml, 94.2 mmol) was added dropwise to a solution of 5-aminoindazole (5.00 g, 37.6 mmol) in pyridine (188 ml) at 0° C. and stirred at 0° C. for 1.5 hours and then at room temperature for 2.5 hours. Subsequently, the reaction solution was concentrated and the resulting residue was poured into water and extracted with ethyl acetate. The organic layer was washed with 1N-hydrochloric acid and then a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain 2,2,2-trifluoro-N-(1H-indazol-5-yl)acetamide (8.37 g, 97%).

reactant | Trifluoroacetic anhydride | 94.2 mmol, 13.3 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 5-aminoindazole | 37.6 mmol, 5.00 g | NC=1C=C2C=NNC2=CC1 | C7H7N3
solvent | pyridine | 188 ml | N1=CC=CC=C1 | C5H5N
product | 2,2,2-trifluoro-N-(1H-indazol-5-yl)acetamide | 8.37 g, 97% | FC(C(=O)NC=1C=C2C=NNC2=CC1)(F)F | C9H6F3N3O
